US08957080B2
To a solution of 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile (236 mg, 0.5 mmol, 1 equiv) and tert-butyl ethyl(2-methyl-1-oxopropan-2-yl)carbamate (2.15 g, 10 mmol, 20 equiv) in dioxane (30 mL) was added 0.5 mL piperidine, 1 drop AcOH and 2 g of 4 A molecular sieves. The resulting mixture was stirred for 2 h at 110° C. The solids was filtered out, the filtrate was diluted with 200 mL of ethyl acetate, washed with brine, dried over Na2SO4, concentrated and purified by silica gel column (ethyl acetate/MeOH 10/1) to give 60 mg (19%) of tert-butyl 5-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-4-cyano-2-methyl-5-oxopent-3-en-2-yl(ethyl)carbamate as a white solid.

reactant | 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile | 0.5 mmol, 236 mg, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | tert-butyl ethyl(2-methyl-1-oxopropan-2-yl)carbamate | 10 mmol, 2.15 g, 20 equiv | C(C)N(C(OC(C)(C)C)=O)C(C=O)(C)C | C11H21NO3
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | tert-butyl 5-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-4-cyano-2-methyl-5-oxopent-3-en-2-yl(ethyl)carbamate | 60 mg, 19% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(C(=CC(C)(C)N(C(OC(C)(C)C)=O)CC)C#N)=O | C36H41FN8O4
